US07666904B2
Preparation of 3-Bromo-4-methoxy-5-{(Z)-[2-(trifluoromethyl)benzylidene]}-5H-furan-2-one
A stirred solution of 5-{hydroxy-[2-(trifluoromethyl)phenyl]methyl}-4-methoxy-5H-furan-2-one (2.9 g, 10.1 mmol) in acetonitrile at room temperature is treated dropwise with bromine (0.52 ml, 10.1 mmol), stirred for 24 h and concentrated in vacuo. The resultant residue is diluted with CH2Cl2 and triethylamine (4.25 ml), cooled in an ice bath, treated with methane sulfonyl chloride (1.6 ml), stirred for 0.5 h at ice bath temperatures, allowed to warm to room temperature for 2 h and diluted with EtOAc and water. The organic phase is separated, dried over MgSO4 and concentrated in vacuo. This residue is flash chromatographed (SiO2, hexane/EtOAc as eluent) to afford the title product as a white solid, 0.20 g (6% yield), mp 136-138° C., identified by NMR and mass spectral analyses.

reactant | 5-{hydroxy-[2-(trifluoromethyl)phenyl]methyl}-4-methoxy-5H-furan-2-one | 10.1 mmol, 2.9 g | OC(C1C(=CC(O1)=O)OC)C1=C(C=CC=C1)C(F)(F)F | C13H11F3O4
reactant | bromine | 10.1 mmol, 0.52 ml | BrBr | Br2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-Bromo-4-methoxy-5-{(Z)-[2-(trifluoromethyl)benzylidene]}-5H-furan-2-one | 6% yield | BrC=1C(O\C(\C1OC)=C/C1=C(C=CC=C1)C(F)(F)F)=O | C13H8BrF3O3
